US04036864
iii. 3β-Hydroxyandrost-5(6), 14-dien-17-one
3-Trifluoroacetoxyandrost-5(6),14-dien-17-one (15 mg) in tetrahydrofuran (3 ml) and methanol (2 ml) was treated with 2N aqueous sodium hydroxide (1 ml) at 0° for 3 min. The solution was diluted with water (15 ml), the organic solvents were evaporated off in vacuo, and the residue was extracted with ether to give the title compound (11 mg), which crystallized from acetone-hexane as prisms (8 mg), m.p. 161°-164°, identical [IR and t.l.c. (ethyl acetate-hexane 1:3)] with an authentic sample. Two recrystallizations raised the m.p. to 165°-168°.

reactant | 3-Trifluoroacetoxyandrost-5(6),14-dien-17-one | 15 mg | FC(C(=O)OC1CC2=CC[C@H]3C4=CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)(F)F | C21H25F3O3
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 3β-Hydroxyandrost-5(6), 14-dien-17-one | 11 mg | O[C@@H]1CC2=CC[C@H]3C4=CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C19H26O2
